US04508724
1-Methyl-3-(phenoxymethyl)-3-piperidinol Hydrochloride [1:1]
A solution of 5 g (0.024 mole) of crude 3-(phenoxymethyl)-3-piperidinol monohydrochloride and 5 g (0.096 mole) of formic acid (88%) in 10 ml of water was treated with 3 ml (0.036 mole) of formalin (37%) and heated on a steam bath for 18 hours. The reaction mixture was diluted with water, made basic with 3N sodium hydroxide, and extracted with three 40 ml portions of methylene chloride. The extracts were combined over magnesium sulfate, filtered, and evaporated under reduced pressure to give a pale yellow oil (4.2 g). The oil was chromatographed on a 400 g column of florisol using an acetone-benzene gradient (0-2%) to elute the product. Fractions containing nearly pure product were combined and evaporated under reduced pressure. The residual oil was dissolved in acetone, treated with ethereal hydrogen chloride and allowed to stand overnight. Filtration afforded 1.8 g solid, which was recrystallized from cold acetone (charcoal pretreatment) to give 1.3 g of hydrochloride salt, m.p. 151° -152° C.

reactant | 3-(phenoxymethyl)-3-piperidinol monohydrochloride | 0.024 mole, 5 g | Cl.O(C1=CC=CC=C1)CC1(CNCCC1)O
reactant | formic acid | 0.096 mole, 5 g | C(=O)O | CH2O2
reactant | formalin | 0.036 mole, 3 ml | C=O | CH2O
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 1-Methyl-3-(phenoxymethyl)-3-piperidinol Hydrochloride | 4.2 g | Cl.CN1CC(CCC1)(O)COC1=CC=CC=C1 | InChI=1S/C13H19NO2.ClH/c1-14-9-5-8-13(15,10-14)11-16-12-6-3-2-4-7-12;/h2-4,6-7,15H,5,8-11H2,1H3;1H
